US06544985B2
A solution of crude rac-3-(2-bromo-propionyl)-benzoic acid methyl ester (2.71 g) and thioformamide (1.83 g) in EtOH (20 ml) was heated at reflux for 1 h. The mixture was partitioned between AcOEt and brine, the organic layer was dried and evaporated and the residual oil was chromatographed on silica gel using AcOEt/hexane (1:4) as eluent to give 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester (2.41 g) as white solid.

reactant | rac-3-(2-bromo-propionyl)-benzoic acid methyl ester | 2.71 g | COC(C1=CC(=CC=C1)C(C(C)Br)=O)=O | C11H11BrO3
reactant | thioformamide | 1.83 g | C(=S)N | CH3NS
solvent | EtOH | 20 ml | CCO | C2H6O
product | 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 2.41 g | COC(C1=CC(=CC=C1)C=1N=CSC1C)=O | C12H11NO2S
